US06342379B1
12-p-methoxybenzylthio-1-dodecanol (1)
Na (800 mg, 34.8 mmol) was dissolved in 30 mL of dry MeOH. Under argon, p-methoxybenzylmercaptan (2.75 mL, 3.04 g, 19.7 mmol) was added to the methoxide solution. After a few minutes, 12-bromododecanol (2.5 g, 9.43 mmol) was dropped into the reaction mixture. Within 5 minutes a solid began to come out of solution. After a minimum of 3 h, the reaction was filtered and washed 3× with cold MeOH, yielding 2.874 g (8.49 mmol, 90%) of pure product after drying. 1H NMR (CDCl3): d 7.23 (d, J=8.8 Hz, 2H, AA′ of AA′BB′ aromatic system), 6.85 (d, J=8.8 Hz, 2H, BB′ of AA′BB′ aromatic system), 3.80 (s, 3H, methoxy), 3.66 (s, 2H, benzyl), 3.64 (dt, J1=6.6 Hz, J2=5.5 Hz, 2H, RCH2OH), 2.40 (t, J=7.3 Hz, 2H, RSCH2R), 1.50-1.65 (cm, 4H, CH2 b to heteroatoms), 1.2-1.4 (cm, 16H, bulk methylenes).

reactant | p-methoxybenzylmercaptan | 19.7 mmol, 2.75 mL, 3.04 g | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | methoxide | C[O-]
reactant | 12-bromododecanol | 9.43 mmol, 2.5 g | BrCCCCCCCCCCCCO | C12H25BrO
solvent | MeOH | 30 mL | CO | CH4O
product | 12-p-methoxybenzylthio-1-dodecanol | 8.49 mmol, 2.874 g, 90% | COC1=CC=C(CSCCCCCCCCCCCCO)C=C1 | C20H34O2S
